US07625890B2
a) 1,1-Dimethylethyl (3S)-3-(bromomethyl)-1-piperidinecarboxylate
To a solution of 1,1-dimethylethyl (3S)-3-(hydroxymethyl)-1-piperidinecarboxylate (30.0 g, 139 mmol) and carbon tetrabromide (72.0 g, 217 mmol) in methylene chloride (150 mL) was added dropwise a solution of triphenyl phosphine (42.4 g, 162 mmol) in methylene chloride (150 mL). An ice-bath was used to maintain an internal temperature between 20 and 25° C. during the addition. After stirring the mixture at ambient temperature for 1 h, cyclohexane (500 mL) was added. Approximately one-half of the solvent was removed under reduced pressure. The remaining solution was cooled in an ice bath and the resulting precipitate was removed by filtration. The filtrate was concentrated under reduced pressure and the residue subjected to flash chromatography (0% to 25% ethyl acetate/hexanes, silica gel) to give 35.1 g (91% yield) of the desired product as a solid. MS (ES+) m/z 278 (M+H)+.

reactant | 1,1-dimethylethyl (3S)-3-(hydroxymethyl)-1-piperidinecarboxylate | 139 mmol, 30.0 g | OC[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | carbon tetrabromide | 217 mmol, 72.0 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenyl phosphine | 162 mmol, 42.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclohexane | 500 mL | C1CCCCC1 | C6H12
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl (3S)-3-(bromomethyl)-1-piperidinecarboxylate | 35.1 g, 91% yield | BrC[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C11H20BrNO2
